US07781435B2
(S)-2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-N-{1-[2-(2-ethoxy-ethylamino)-1,1-dimethyl-ethyl]-1H-imidazol-4-yl}-propionamide
(2-Ethoxy-ethyl)-[2-methyl-2-(4-nitro-imidazol-1-yl)-propyl]-amine was reduced and then coupled with 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-propionic acid to afford the title compound: MS 464.6 m/z (M+1).

reactant | (2-Ethoxy-ethyl)-[2-methyl-2-(4-nitro-imidazol-1-yl)-propyl]-amine | C(C)OCCNCC(C)(N1C=NC(=C1)[N+](=O)[O-])C | C11H20N4O3
reactant | 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-propionic acid | FC=1C=C2CCC(CC2=C(C1)F)NC(C(=O)O)C | C13H15F2NO2
product | (S)-2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-N-{1-[2-(2-ethoxy-ethylamino)-1,1-dimethyl-ethyl]-1H-imidazol-4-yl}-propionamide | FC=1C=C2CCC(CC2=C(C1)F)N[C@H](C(=O)NC=1N=CN(C1)C(CNCCOCC)(C)C)C | C24H35F2N5O2
